US09353108B2
C) 2-Cyclopropyl-4′-fluoro-5-methoxybiphenyl-4-carbaldehyde
2-Bromo-4′-fluoro-5-methoxybiphenyl-4-carbaldehyde (20.6 g), cyclopropylboronic acid (10.3 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (4.10 g), tris(dibenzylideneacetone)dipalladium(0) (4.27 g), and a 2 M aqueous sodium carbonate solution (100 mL) were added to toluene (250 mL) in an argon atmosphere, and the mixture was stirred at 100° C. for 2 hours. The reaction mixture was allowed to cool to room temperature and poured to water, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was passed through a short silica gel column (hexane/ethyl acetate), and then, the filtrate was concentrated. The residue was crystallized from a mixed solution of ethanol (50 mL) and water (10 mL), and the obtained crystals were washed with ethanol (85 mL) to obtain the title compound (9.70 g).

reactant | 2-Bromo-4′-fluoro-5-methoxybiphenyl-4-carbaldehyde | 20.6 g | BrC1=C(C=C(C(=C1)C=O)OC)C1=CC=C(C=C1)F | C14H10BrFO2
reactant | cyclopropylboronic acid | 10.3 g | C1(CC1)B(O)O | C3H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 4.10 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 100 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 4.27 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Cyclopropyl-4′-fluoro-5-methoxybiphenyl-4-carbaldehyde | 9.70 g | C1(CC1)C1=C(C=C(C(=C1)C=O)OC)C1=CC=C(C=C1)F | C17H15FO2
